US08647781B2
(a) Synthesis of 4-Chloro-2-chloromethylpyridine
4-Chloro-2-pyridinemethanol (1.0 g, 6.965 mmol) was dissolved in dichloromethane (25 cm3), heated to reflux and then treated slowly with a solution of thionyl chloride (1.50 cm3, d=1.631 gcm−3, 0.0206 mmol) in DCM (25 cm3). The reaction mixture was then stirred at 60° C. for 3 h, soon turning pink. After this time the DCM was evaporated off and the pale pink residue carefully neutralised with saturated sodium bicarbonate solution (40 cm3). The product was then extracted into DCM (3×30 cm3) and dried over sodium carbonate for 30 min. After filtration the product solution was then concentrated to a low volume and filtered through a short silica column (1:4 methanol/DCM as eluent), giving a pale yellow solution. This was then concentrated down to a red/brown oil, dried at 50° C., which was the desired product 4-chloro-2-chloromethylpyridine (934 mg, 83%); 1H NMR (CDCl3); δH 8.40 (d, 1H, J=5.5), 7.44 (d, 1H, J=1.5), 7.19 (dd, 1H, J=5.5, 1.5), and 4.58 (s, 2H) ppm.

reactant | 4-Chloro-2-pyridinemethanol | 6.965 mmol, 1.0 g | ClC1=CC(=NC=C1)CO | C6H6ClNO
reactant | thionyl chloride | 0.0206 mmol, 1.50 cm3 | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 25 cm3 | ClCCl | CH2Cl2
solvent | DCM | 25 cm3 | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-chloromethylpyridine | ClC1=CC(=NC=C1)CCl | C6H5Cl2N
